US05262390
A solution of 4.70 g 0.0152 mole) of 2-(4-isopropoxy-2-fluorophenyl)-1,2,4-triazine-3,5-dion-6-carboxylic acid in 5 mL of mercaptoacetic acid was heated at 140°-145° C. for two hours under a nitrogen atmosphere. After this mixture had cooled, it was poured into 250 mL of a saturated aqueous solution of sodium bicarbonate with vigorous stirring. An equal volume of ethyl acetate was added to this mixture, and the resulting layers were separated. The organic layer was washed twice with 150 mL of a saturated aqueous solution of sodium bicarbonate and once with 150 mL of a saturated aqueous solution of sodium chloride. The organic solution was then dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, leaving a syrup which slowly crystallized to a yellow-orange solid upon standing. This solid was recrystallized from ethyl acetate/petroleum ether (1:1), yielding 0.60 g of 2-(4-isopropoxy-2-fluorophenyl)-1,2,4-triazine-3,5-dione as a yellow solid. The NMR was consistent with the proposed structure. This reaction was repeated to obtain additional material for subsequent reactions.

reactant | 2-(4-isopropoxy-2-fluorophenyl)-1,2,4-triazine-3,5-dion-6-carboxylic acid | C(C)(C)OC1=CC(=C(C=C1)N1N=C(C(NC1=O)=O)C(=O)O)F | C13H12FN3O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | mercaptoacetic acid | 5 mL | SCC(=O)O | C2H4O2S
product | 2-(4-isopropoxy-2-fluorophenyl)-1,2,4-triazine-3,5-dione | 0.60 g | C(C)(C)OC1=CC(=C(C=C1)N1N=CC(NC1=O)=O)F | C12H12FN3O3
